US05364937
2. 1-(2-Ethoxyphenoxysulfonyl)-3-(4,6-dimethoxy-2-pyrimidyl)-urea
26.0 g (0.4 mol) of comminuted sodium cyanate are suspended at room temperature in 200 ml of acetonitrile, and 28.3 g (0.21 mol) of sulfuryl chloride are added within the space of 20 min, during which time the temperature rises to 44° C. After stirring for a further four hours at 50° C., the mixture is distilled under reduced pressure, cooled to 27° C. and 27.6 g (0.2 mol) of 2-ethoxyphenol are added within the space of 10 min. The mixture is left to stand overnight and 15.5 g (0.1 mol) of 2-amino-4,6-dimethoxypyrimidine are added at room temperature. The mixture is stirred at 50° C. for a further 120 min, the solvent is removed under reduced pressure, 100 ml of water are added, and the mixture is extracted with dichloromethane. After distilling off the organic solvent, 49.9 g of solids remain which, according to HPLC, exhibit a content of 71.6% by weight of 1-(2-ethoxyphenoxysulfonyl)-3-(4,6-dimethoxy-2-pyrimidyl)-urea. The yield of the compound is about 89% of theory.

reactant | sodium cyanate | 0.4 mol, 26.0 g | [O-]C#N.[Na+]
reactant | sulfuryl chloride | 0.21 mol, 28.3 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2-ethoxyphenol | 0.2 mol, 27.6 g | C(C)OC1=C(C=CC=C1)O | C8H10O2
reactant | 2-amino-4,6-dimethoxypyrimidine | 0.1 mol, 15.5 g | NC1=NC(=CC(=N1)OC)OC | C6H9N3O2
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 1-(2-Ethoxyphenoxysulfonyl)-3-(4,6-dimethoxy-2-pyrimidyl)-urea | C(C)OC1=C(OS(=O)(=O)NC(=O)NC2=NC(=CC(=N2)OC)OC)C=CC=C1 | C15H18N4O7S
